US08604029B2
4-Phenyloxazole (1 g, 6.89 mmol) was dissolved in concentrated sulfuric acid (5 mL) at 0° C. A cold solution of nitrating mixture (prepared by adding 3 mL conc. nitric acid to 5 mL of ice-cold conc. sulfuric acid) was added over 10 minutes. The mixture was allowed to warm to r.t. and stirred for 1 h. The resulting solution was poured into ice-cold water giving a white precipitate, which was filtered and washed thoroughly with water. The solid was dissolved in DCM and washed with water then brine. The organic phase was dried over sodium sulfate and concentrated to yield 4-(4-nitro-phenyl)-oxazole (550 mg, 42%) as a white solid.

reactant | 4-Phenyloxazole | 6.89 mmol, 1 g | C1(=CC=CC=C1)C=1N=COC1 | C9H7NO
reactant | nitric acid | 3 mL | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
product | 4-(4-nitro-phenyl)-oxazole | 550 mg, 42% | [N+](=O)([O-])C1=CC=C(C=C1)C=1N=COC1 | C9H6N2O3
